US07488740B2
8. 2-Chloro-4-methoxy-7-[3-(trifluoromethyl)pyridin-2-yl]quinoline
Add sodium methoxide (4M, 1.1 mmol) to a solution of 2,4-dichloro-7-(3-trifluoromethyl-pyridin-2-yl)-quinoline (1.0 mmol) in THF (10 mL). Stir at room temperature for 1 hour, add water (15 mL) and extract with ethyl acetate. Wash the combined organic extracts with brine, dry (MgSO4) and evaporate. Purify the mixture of 2-chloro-4-methoxy-7-[3-(trifluoromethyl)pyridin-2-yl]quinoline and 4-chloro-2-methoxy-7-[3-(trifluoromethyl)pyridin-2-yl]quinoline by flash chromatography (elute with 1:2 hexane:ether) to give the title compound.

reactant | sodium methoxide | 1.1 mmol, 4M | C[O-].[Na+]
reactant | 2,4-dichloro-7-(3-trifluoromethyl-pyridin-2-yl)-quinoline | 1.0 mmol | ClC1=NC2=CC(=CC=C2C(=C1)Cl)C1=NC=CC=C1C(F)(F)F | C15H7Cl2F3N2
reactant | water | 15 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-Chloro-4-methoxy-7-[3-(trifluoromethyl)pyridin-2-yl]quinoline | ClC1=NC2=CC(=CC=C2C(=C1)OC)C1=NC=CC=C1C(F)(F)F | C16H10ClF3N2O
